US04008250
Reaction of the 2-(3-methylmercaptophenyl)-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-4-carboxamide described above in Example 20CB with one molar equivalent of performic acid in acetone at room temperature affords 2-(3-methylsulfinylphenyl)-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-4-carboxamide.

reactant | 2-(3-methylmercaptophenyl)-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-4-carboxamide | CSC=1C=C(C=CC1)N1C(=C2C(=C1C)C(CC2(C)C)(C(=O)N)C)C | C20H26N2OS
reactant | performic acid | C(=O)OO | CH2O3
solvent | acetone | CC(=O)C | C3H6O
product | 2-(3-methylsulfinylphenyl)-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-4-carboxamide | CS(=O)C=1C=C(C=CC1)N1C(=C2C(=C1C)C(CC2(C)C)(C(=O)N)C)C | C20H26N2O2S
